US08034811B2
2-Aminooxymethyl-benzonitrile
Prepared by a similar procedure as described for preparation 15, starting from N-hydroxyphthalimide and 2-bromomethyl-benzonitrile. 13C-NMR (CDCl3) δ 141.3, 132.9, 132.8, 129.5, 128.4, 117.5, 112.4, 75.3

reactant | N-hydroxyphthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 2-bromomethyl-benzonitrile | BrCC1=C(C#N)C=CC=C1 | C8H6BrN
product | 2-Aminooxymethyl-benzonitrile | NOCC1=C(C#N)C=CC=C1 | C8H8N2O
